US03959322
Add dl-13-ethyl-3,17-dihydroxygona-3,5-diene, diacetate (1.0 g) dissolved in acetone (20 cc) to a solution of acetone (86 cc), pyridine (.59 ml), sodium acetate (2.72 cc), water (27.2 cc) and acetic acid (2.72 cc). Chill to 0° and add N-bromosuccinimide (0.5 g). Stir for three hours at a temperature between +5 and -5°. Pour into ice-cold brine (800 cc) and extract with ether. Wash and dry the ether layer and concentrate, deeping the temperature below +15°. Add calcium carbonate (3.0 g) and dimethylformamide (70 cc) and distil off residual ether. Reflux one hour, cool and filter; wash the cake with ether. Pour the filtrate into brine and extract with ether. Recrystallize from ethyl acetate-hexane to obtain dl-13-ethyl-17β-acetoxygona-4,6-dien-3-one (0.475 g), m.p. 163°-177°, λ max. KBr 5.77, 6.0 μ; λ max. EtOH 283 mμ (ε24,370).

reactant | 13-ethyl-3,17-dihydroxygona-3,5-diene | C(C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(=CC1=CC2)O)O | C19H28O2
reactant | diacetate | 1.0 g | CC(=O)CC(=O)O | C4H6O3
reactant | N-bromosuccinimide | 0.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetone | 20 cc | CC(=O)C | C3H6O
solvent | acetone | 86 cc | CC(=O)C | C3H6O
solvent | pyridine | .59 ml | N1=CC=CC=C1 | C5H5N
solvent | sodium acetate | 2.72 cc | C(C)(=O)[O-].[Na+]
solvent | water | 27.2 cc | O | H2O
solvent | acetic acid | 2.72 cc | C(C)(=O)O | C2H4O2
product | 13-ethyl-17β-acetoxygona-4,6-dien-3-one | 0.475 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1C=C2)=O)OC(C)=O | C21H28O3
